US05550041
600 g of theophylline (a product of Katayama Kagaku Kogyo K.K.) was dissolved in 180 ml of an aqueous solution containing 263.4 g of potassium hydroxide, and the solution was evaporated to dryness under reduced pressure to prepare a potassium salt of theophylline. The resulting salt was suspended in 3600 ml of dimethylformamide, and 436.5 ml of propyl bromide was added thereto, followed by heating at 90° C. for 8 hours while stirring. Dimethylformamide was removed by distillation under reduced pressure, and to the residue was added 1800 ml of dichloromethane. The mixture was washed three times with 300 ml portions of a 1N potassium hydroxide aqueous solution and then once with 300 ml of water and dried over 54 g of anhydrous magnesium sulfate. The desiccant was removed by filtration, and the mother liquor was dried under reduced pressure and then in vacuo (85° C., 5 hours) to obtain 657 g (yield: 88.8%) of 1,3-dimethyl-7-propylxanthine.

reactant | theophylline | 600 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium hydroxide | 263.4 g | [OH-].[K+]
reactant | propyl bromide | 436.5 ml | C(CC)Br | C3H7Br
solvent | dimethylformamide | 3600 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-7-propylxanthine | 657 g, yield: 88.8% | CN1C(=O)N(C=2N=CN(C2C1=O)CCC)C | C10H14N4O2
